US05998433
a) Synthesis of 6-trifluoroacetyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 1.020 g (6.391 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride and 1.55 ml (19.2 mmol) of pyridine in 50 ml of dichloromethane, a solution of trifluoroacetic anhydride in 30 ml of dichloromethane was added dropwise under ice-cooling, followed by stirring at room temperature for 30 minutes. The reaction mixture was evaporated under reduced pressure, the resulting residue was diluted with ethyl acetate and washed with dilute hydrochloric acid, after which it was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1 to 9/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 6.391 mmol, 1.020 g | Cl.O1C=CC2=C1CNCC2
reactant | pyridine | 19.2 mmol, 1.55 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-trifluoroacetyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | FC(C(=O)N1CC2=C(CC1)C=CO2)(F)F | C9H8F3NO2
